US07935715B2
To a solution of 0.26 g (3.2 mmol) of NaHCO3 and 0.4 g (3.2 mmol) of Na2SO3 in water (1.5 mL) were added 0.4 g (1.6 mmol) of 4-(methylsulfonyl)-benzenesulfonyl chloride. The reaction was heated at 80° C. for 3 h. The solvent was removed under reduced pressure. The crude material was suspended in boiling ethanol (20 mL) and the inorganic solids were removed by filtration. The filtrate was concentrated under reduced pressure to afford 0.14 g of 4-methanesulfonyl-benzenesulfinic acid sodium salt.

reactant | NaHCO3 | 3.2 mmol, 0.26 g | C(=O)(O)[O-].[Na+]
reactant | Na2SO3 | 3.2 mmol, 0.4 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | 4-(methylsulfonyl)-benzenesulfonyl chloride | 1.6 mmol, 0.4 g | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | water | 1.5 mL | O | H2O
product | 4-methanesulfonyl-benzenesulfinic acid sodium salt | 0.14 g | [Na+].CS(=O)(=O)C1=CC=C(C=C1)S(=O)[O-] | InChI=1S/C7H8O4S2.Na/c1-13(10,11)7-4-2-6(3-5-7)12(8)9;/h2-5H,1H3,(H,8,9);/q;+1/p-1
